US04891363
dl-trans-2-[2-Hydroxy-8-(p-toluenesulfonyloxy)octyloxymethyl]tetrahydropyran-3-yl N-heptadecylcarbamate
0.458 g of dl-trans-2-[(2,8-dihydroxyoctyloxy)methyl]tetrahydropyran-3-yl N-heptadecylcarbamate (prepared as described in Preparation 75), 0.27 ml of triethylamine and 5 mg of 4-dimethylaminopyridine were dissolved in 10 ml of methylene chloride. 0.188 g of p-toluenesulfonyl chloride were added to the mixture, whilst ice-cooling, after which the mixture was stirred at room temperature for 14 hours. At the end of this time, the reaction mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through 12 g of silica gel and by medium pressure liquid chromatography through a Lobar B column. 0.492 g of the title compound was obtained, as a white wax, from the fractions eluted with mixtures of hexane and ethyl acetate ranging from 3:2 to 1:1 by volume.

reactant | trans-2-[(2,8-dihydroxyoctyloxy)methyl]tetrahydropyran-3-yl N-heptadecylcarbamate | C(CCCCCCCCCCCCCCCC)NC(O[C@H]1[C@@H](OCCC1)COCC(CCCCCCO)O)=O | C32H63NO6
reactant | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.188 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trans-2-[2-Hydroxy-8-(p-toluenesulfonyloxy)octyloxymethyl]tetrahydropyran-3-yl N-heptadecylcarbamate | 0.492 g | C(CCCCCCCCCCCCCCCC)NC(O[C@H]1[C@@H](OCCC1)COCC(CCCCCCOS(=O)(=O)C1=CC=C(C=C1)C)O)=O | C39H69NO8S
